US06818713B1
(a) Preparation of Indeno[1,2-b]indole 1
A mixture of 1-indanone (30.6 g, 232 mmol) and p-tolylhydrazine hydrochloride (37.0 g, 233 mmol) in ethanol (350 mL) and aqueous HCl (12 N, 18 mL) is heated to reflux for 90 minutes. The mixture is cooled and filtered, and the solid is washed with ethanol (600 mL) followed by 20% aqueous ethanol (400 mL) and finally hexanes (200 mL). The off-white solid is dried under vacuum (36.5 g, 72%).

reactant | 1-indanone | 232 mmol, 30.6 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | p-tolylhydrazine hydrochloride | 233 mmol, 37.0 g | Cl.C1(=CC=C(C=C1)NN)C
solvent | ethanol | 350 mL | C(C)O | C2H6O
solvent | HCl | 12 N, 18 mL | Cl | ClH
product | Indeno[1,2-b]indole | C1=C2C=C3C(=NC=4C=CC=CC34)C2=CC=C1 | C15H9N
